US06136837
To 1.39 g (6 mmol) of 5-(2-formyl-α-methoxybenzyl)-3-methylisoxazole in 12 ml of methanol was added 0.83 g (12 mmol) of hydroxylamine hydrochloride and 1.07 ml (13.2 mmol) of pyridine and stirred under reflux for 2 hours. After completion of the reaction, 200 ml of 0.1 N hydrochloric acid was added and extracted twice with 100 ml of dichloromethane. The dichloromethane layer was dried over anhydrous magnesium and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate/n-hexane) to give 5-(2-hydroxyiminomethyl-α-methoxybenzyl)-3-methylisoxazole (1.20 g, 81.2%) as oil.

reactant | 5-(2-formyl-α-methoxybenzyl)-3-methylisoxazole | 6 mmol, 1.39 g | C(=O)C1=C(C(OC)C2=CC(=NO2)C)C=CC=C1 | C13H13NO3
reactant | hydroxylamine hydrochloride | 12 mmol, 0.83 g | Cl.NO
reactant | pyridine | 13.2 mmol, 1.07 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 0.1 N, 200 ml | Cl | ClH
solvent | methanol | 12 ml | CO | CH4O
product | 5-(2-hydroxyiminomethyl-α-methoxybenzyl)-3-methylisoxazole | 1.20 g, 81.2% | ON=CC1=C(C(OC)C2=CC(=NO2)C)C=CC=C1 | C13H14N2O3
